US05919780
(7,8-Dichloro-5H-dibenzo[b,e][1,4]diazepin-11yl)-pyridin-3-ylmethyl-amine
A solution of 329 mg (1.1 mmol) of 7,8-dichloro-5,10-dihydro-dibenzo[b,e][1,4]diazepin-11-thione in 10 mL of 2-ethoxyethanol was treated with 0.3 mL (2.2 mmol) of 3-(aminomethyl)pyridine and heated at reflux overnight. The solvent was removed under reduced pressure and the residue taken up in EtOAc and washed three times with H2O, then saturated NaHCO3 solution and saturated NaCl solution. Drying over MgSO4 and removal of the solvent under reduced pressure left the crude product. Chromatography on silica gel, eluting with CHCl3 /MeOH (97/3) followed by recrystallization from acetone/H2O gave 217 mg (52.8% yield) of the product as a yellow solid, mp 209-210° C. The structure was confirmed by NMR and mass spectroscopy. (m+H)+ =370.

reactant | 7,8-dichloro-5,10-dihydro-dibenzo[b,e][1,4]diazepin-11-thione | 1.1 mmol, 329 mg | ClC1=CC2=C(NC(C3=C(N2)C=CC=C3)=S)C=C1Cl | C13H8Cl2N2S
reactant | 3-(aminomethyl)pyridine | 2.2 mmol, 0.3 mL | NCC=1C=NC=CC1 | C6H8N2
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | (7,8-Dichloro-5H-dibenzo[b,e][1,4]diazepin-11yl)-pyridin-3-ylmethyl-amine | 217 mg, 52.8% yield | ClC1=CC2=C(N=C(C3=C(N2)C=CC=C3)NCC=3C=NC=CC3)C=C1Cl | C19H14Cl2N4
